US05589473
(R)-4-(3-Aminomethyl-1,2,4-oxadiazol-5-yl) -16-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-14-methoxy-13-methyl-6-thioxo-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-12-one was treated with ammonium fluoride in methanol in an analogous manner to the procedure described in Example 1. The resulting product was dissolved in ethyl acetate. Upon the addition of a 3N solution of hydrochloric acid in diethyl ether, a precipitate formed which was isolated to yield (R)-4-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-16-hydroxy-14-methoxy-13-methyl-6-thioxo-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-12-one hydrochloride as a white solid.

reactant | (R)-4-(3-Aminomethyl-1,2,4-oxadiazol-5-yl) -16-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-14-methoxy-13-methyl-6-thioxo-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-12-one | NCC1=NOC(=N1)[C@@H]1CSCC2=C(C(OCCCCC(N1)=S)=O)C(=C(C=C2O[Si](C(C(C)C)(C)C)(C)C)OC)C | C28H44N4O5S2Si
reactant | ammonium fluoride | [F-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (R)-4-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-16-hydroxy-14-methoxy-13-methyl-6-thioxo-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-12-one hydrochloride | Cl.NCC1=NOC(=N1)[C@@H]1CSCC2=C(C(OCCCCC(N1)=S)=O)C(=C(C=C2O)OC)C | InChI=1S/C20H26N4O5S2.ClH/c1-11-15(27-2)7-14(25)12-9-31-10-13(19-23-16(8-21)24-29-19)22-17(30)5-3-4-6-28-20(26)18(11)12;/h7,13,25H,3-6,8-10,21H2,1-2H3,(H,22,30);1H/t13-;/m0./s1
